US08022223B2
3-(3-methoxyphenylthio)-5-phenoxy-N-(3-(tetrahydrofuran-2-yl)-1,2,4-thiadiazol-5-yl)pyridin-2-amine hydrochloride
A 10 mL round-bottomed flask was charged with 5-(3-bromophenoxy)-3-(3-methoxyphenylthio)-N-(3-(tetrahydrofuran-2-yl)-1,2,4-thiadiazol-5-yl)pyridin-2-amine (41 mg, 0.074 mmol) and THF (2 mL). The reaction was cooled to −78° C. and methyllithium (0.055 mL, 0.088 mmol) was added and stirred for 5 minutes. Butyllithium (0.035 mL, 0.088 mmol) was added and stirred for 5 minutes. The reaction was then poured into saturated aqueous NH4Cl and extract with EtOAc. The organic layer was dried with sodium sulfate, filtered and concentrated. The residue was purified on silica gel (35% ethyl acetate in hexanes) to afford the title compound (36 mg, 95%) after HCl salt formation. 1H NMR (d6-DMSO) δ 11.47 (bs, 1H), 8.30 (bs, 1 h), 7.59 (bs, 1H), 7.37 (m, 2H), 7.28 (t, 1H), 7.14 (t, 1H), 7.03 (d, 2H), 6.88 (m, 3H), 4.04 (t, 1H), 3.90-3.75 (m, 3H), 3.72 (s, 3H), 3.57 (m, 1H), 2.25 (m, 2H). Mass spectrum (apci) m/z=479.2 (M+H—HCl).

reactant | 5-(3-bromophenoxy)-3-(3-methoxyphenylthio)-N-(3-(tetrahydrofuran-2-yl)-1,2,4-thiadiazol-5-yl)pyridin-2-amine | 0.074 mmol, 41 mg | BrC=1C=C(OC=2C=C(C(=NC2)NC2=NC(=NS2)C2OCCC2)SC2=CC(=CC=C2)OC)C=CC1 | C24H21BrN4O3S2
reactant | methyllithium | 0.088 mmol, 0.055 mL | C[Li]
reactant | Butyllithium | 0.088 mmol, 0.035 mL | C(CCC)[Li]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 3-(3-methoxyphenylthio)-5-phenoxy-N-(3-(tetrahydrofuran-2-yl)-1,2,4-thiadiazol-5-yl)pyridin-2-amine hydrochloride | 36 mg, 95% | Cl.COC=1C=C(C=CC1)SC=1C(=NC=C(C1)OC1=CC=CC=C1)NC1=NC(=NS1)C1OCCC1 | InChI=1S/C24H22N4O3S2.ClH/c1-29-17-9-5-10-19(13-17)32-21-14-18(31-16-7-3-2-4-8-16)15-25-23(21)27-24-26-22(28-33-24)20-11-6-12-30-20;/h2-5,7-10,13-15,20H,6,11-12H2,1H3,(H,25,26,27,28);1H
